US07741339B2
Preparation of (E)-3-(6-aminopyridin-3-yl)-N-(1-isopropyl-1H-indol-3-ylmethyl)-N-methylacrylamide
EDC (0.51 g, 2.64 mmole) was added to a solution of (E)-3-(6-aminopyridin-3-yl)acrylic acid (0.43 g, 2.64 mmole), 1-isopropyl-3-(methylaminomethyl)indole (0.49 g, 2.40 mmole), HOBt H2O (0.36 g, 2.64 mmole) and diisopropylethylamine (0.84 mL 4.80 mmole) in DMF (40 mL) at RT. The reaction was stirred overnight then was concentrated in vacuo. The residue was diluted with water and extracted with ethyl acetate. The combined organic extracts were washed with brine and dried over Na2SO4. Flash chromatography on silica gel (10% MeOH/CHCl3) gave the title compound (0.49 g, 58%) as a yellow solid after drying in vacuo: MS (ES) m/e 349 (M+H)+.

reactant | EDC | 2.64 mmole, 0.51 g
reactant | (E)-3-(6-aminopyridin-3-yl)acrylic acid | 2.64 mmole, 0.43 g | NC1=CC=C(C=N1)/C=C/C(=O)O | C8H8N2O2
reactant | 1-isopropyl-3-(methylaminomethyl)indole | 2.40 mmole, 0.49 g | C(C)(C)N1C=C(C2=CC=CC=C12)CNC | C13H18N2
reactant | HOBt H2O | 2.64 mmole, 0.36 g | C=1C=CC2=C(C1)N=NN2O.O
reactant | diisopropylethylamine | 4.80 mmole, 0.84 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | (E)-3-(6-aminopyridin-3-yl)-N-(1-isopropyl-1H-indol-3-ylmethyl)-N-methylacrylamide | 0.49 g, 58% | NC1=CC=C(C=N1)/C=C/C(=O)N(C)CC1=CN(C2=CC=CC=C12)C(C)C | C21H24N4O
